US07605272B2
4-Fluoro-2-nitrobenzaldehyde (0.20 g, 1.2 mmol), N-(2-methoxyethyl)-2-morpholinoethylamine (1.2 g, 6.5 mmol) and DMSO (3.5 mL) were added and stirred at 100° C. for 3 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 to ethyl acetate). In a similar manner to Example 1, the obtained 4-[N-(2-methoxyethyl)-N-(2-morpholinoethyl)amino]-2-nitrobenzaldehyde was dissolved in methanol (8.0 mL) and the solution was added with (1H-indazol-3-ylmethyl)triphenylphosphonium bromide (0.21 g, 0.62 mmol) and potassium carbonate (0.17 g, 1.3 mmol) followed by stirring at room temperature for 1 hour. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform to chloroform/methanol=9/1) to obtain (E)-N-{4-[2-(1H-indazol-3-yl)vinyl]-3-nitrophenyl}-N-(2-methoxyethyl)-2-morpholinoethylamine (45 mg, 20%).

reactant | 4-Fluoro-2-nitrobenzaldehyde | 1.2 mmol, 0.20 g | FC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | N-(2-methoxyethyl)-2-morpholinoethylamine | 6.5 mmol, 1.2 g | COCCNCCN1CCOCC1 | C9H20N2O2
reactant | (1H-indazol-3-ylmethyl)triphenylphosphonium bromide | 0.62 mmol, 0.21 g | [Br-].N1N=C(C2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 1.3 mmol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | DMSO | 3.5 mL | CS(=O)C | C2H6OS
product | (E)-N-{4-[2-(1H-indazol-3-yl)vinyl]-3-nitrophenyl}-N-(2-methoxyethyl)-2-morpholinoethylamine | 45 mg, 20% | N1N=C(C2=CC=CC=C12)/C=C/C1=C(C=C(C=C1)N(CCOC)CCN1CCOCC1)[N+](=O)[O-] | C24H29N5O4
